US07157487B2
Methyl 4-amino-5-chloro-2-fluorophenylacetate (753 mg, 3.25 mmol), benzo(d)isothiazole-3-carboxylic acid (583 mg, 3.25 mmol), HOBt (834 mg, 6.18 mmol), EDC HCl (934 mg, 4.88 mmol) and DMAP (catalytic amount) were dissolved in DMF (16 ml). The resulting solution was stirred for 10 hours at 80° C. After cooling, the reaction mixture was poured in 1M HCl, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (middle pressure, n-hexane/ethyl acetate 9:1, 15 ml/min, φ 50×300 mm) to give ethyl (5-chloro-2-fluoro-4-((3-benzo(d)isothiazolylcarbonyl)amino)phenyl)acetate. The resulting ester was dissolved in THF/methanol (4 ml, 3:1), and to the resulting solution was added 1M NaOH (1 ml). The mixture was stirred for 18 hours at room temperature. The solvent was distilled off under reduced pressure, and the residue was poured in 1M HCl. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (5-chloro-2-fluoro-4-((3-benzo(d)isothiazolylcarbonyl)amino)phenyl)acetic acid (354 mg, 30%) as a colorless solid.

reactant | Methyl 4-amino-5-chloro-2-fluorophenylacetate | 3.25 mmol, 753 mg | NC1=CC(=C(C=C1Cl)CC(=O)OC)F | C9H9ClFNO2
reactant | benzo(d)isothiazole-3-carboxylic acid | 3.25 mmol, 583 mg | S1N=C(C2=C1C=CC=C2)C(=O)O | C8H5NO2S
reactant | HOBt | 6.18 mmol, 834 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 4.88 mmol, 934 mg | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1M | Cl | ClH
product | ethyl (5-chloro-2-fluoro-4-((3-benzo(d)isothiazolylcarbonyl)amino)phenyl)acetate | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=NSC2=C1C=CC=C2 | C18H14ClFN2O3S
